// SPDX-FileCopyrightText: APM contributors
// SPDX-License-Identifier: Apache-2.0
//
// APM v2 model-only Spectre binding for apm045/io18
// EXPERIMENTAL / UNVERIFIED
// Generated by tools/generate_spectre_v2.py.
// Static structure only: not parsed or simulated by Cadence Spectre.
// Include variation/spectre/benchmark_variation.scs with one section.

simulator lang=spice
.include "../ngspice/apm045_io18_n.inc"
.include "../ngspice/apm045_io18_p.inc"
simulator lang=spectre

subckt apm045_io18_nmos (d g s b)
parameters w=9.9999999999999995e-07 l=8.0000000000000002e-08
parameters apm__match_size=(w*l)/(9.9999999999999995e-07*1.6e-07)
parameters apm__vth_adapter_a=1.0346163766628573 apm__vth_adapter_b=-0.0080221474579982056
parameters apm__drive_adapter_a=0.90328796756097363 apm__drive_adapter_b=-0.1002432424317137
parameters apm__vth_intent=0.012*apm_bench_apm045_n_vth_global_z+0.0080000000000000002*apm__mos_vth_local_z/sqrt(apm__match_size)
parameters apm__drive_intent=(1+0.029999999999999999*apm_bench_apm045_n_drive_global_z)*(1+0.025000000000000001*apm__mos_drive_local_z/sqrt(apm__match_size))-1
parameters apm__vth_raw=2*apm__vth_intent/(apm__vth_adapter_a+sqrt(apm__vth_adapter_a*apm__vth_adapter_a+4*apm__vth_adapter_b*apm__vth_intent))
parameters apm__drive_raw=1+2*apm__drive_intent/(apm__drive_adapter_a+sqrt(apm__drive_adapter_a*apm__drive_adapter_a+4*apm__drive_adapter_b*apm__drive_intent))
Mapm__core (d g s b) apm045_io18_ncore w=w l=l delvto=apm__vth_raw mulu0=apm__drive_raw
ends apm045_io18_nmos

subckt apm045_io18_pmos (d g s b)
parameters w=9.9999999999999995e-07 l=8.0000000000000002e-08
parameters apm__match_size=(w*l)/(9.9999999999999995e-07*1.6e-07)
parameters apm__vth_adapter_a=-1.0377600440050798 apm__vth_adapter_b=-0.031675757315805117
parameters apm__drive_adapter_a=0.95921899797669452 apm__drive_adapter_b=-0.053238937463958948
parameters apm__vth_intent=0.012*apm_bench_apm045_p_vth_global_z+0.0080000000000000002*apm__mos_vth_local_z/sqrt(apm__match_size)
parameters apm__drive_intent=(1+0.029999999999999999*apm_bench_apm045_p_drive_global_z)*(1+0.025000000000000001*apm__mos_drive_local_z/sqrt(apm__match_size))-1
parameters apm__vth_raw=2*apm__vth_intent/(apm__vth_adapter_a-sqrt(apm__vth_adapter_a*apm__vth_adapter_a+4*apm__vth_adapter_b*apm__vth_intent))
parameters apm__drive_raw=1+2*apm__drive_intent/(apm__drive_adapter_a+sqrt(apm__drive_adapter_a*apm__drive_adapter_a+4*apm__drive_adapter_b*apm__drive_intent))
Mapm__core (d g s b) apm045_io18_pcore w=w l=l delvto=apm__vth_raw mulu0=apm__drive_raw
ends apm045_io18_pmos
